US08975252B2
Sodium hydroxide (103 mg) and tetrabutylammonium hydrogensulfate (15 mg) were added to a solution of tert-butyl [(3-chloro-1H-indol-6-yl)methyl]cyclopropylcarbamate (275 mg) in acetonitrile (7.0 ml) and the mixture was stirred at room temperature for 20 minutes. 3-Chloropropylamine hydrochloride (149 mg) was added to the reaction mixture and it was heated under reflux for 16 hours. Sodium hydroxide (103 mg) and 3-Chloropropylamine hydrochloride (149 mg) were added and the mixture was further heated to reflux for 2 hours. The reaction mixture was cooled to room temperature, insoluble materials were filtered through Celite and the filtrate was diluted with water and extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over magnesium sulfate and concentrated in vacuo. The resulted residue was purified with a silica gel column chromatography (eluting solvent: chloroform/methanol=20/1 to 10/1) to give tert-butyl {[1-(2-aminoethyl)-3-chloro-1H-indol-6-yl]methyl}cyclopropylcarbamate (257 mg) as a yellow oil.

reactant | Sodium hydroxide | 103 mg | [OH-].[Na+]
reactant | tert-butyl [(3-chloro-1H-indol-6-yl)methyl]cyclopropylcarbamate | 275 mg | ClC1=CNC2=CC(=CC=C12)CN(C(OC(C)(C)C)=O)C1CC1 | C17H21ClN2O2
reactant | 3-Chloropropylamine hydrochloride | 149 mg | Cl.ClCCCN
reactant | Sodium hydroxide | 103 mg | [OH-].[Na+]
reactant | 3-Chloropropylamine hydrochloride | 149 mg | Cl.ClCCCN
catalyst | tetrabutylammonium hydrogensulfate | 15 mg | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | acetonitrile | 7.0 ml | C(C)#N | C2H3N
product | tert-butyl {[1-(2-aminoethyl)-3-chloro-1H-indol-6-yl]methyl}cyclopropylcarbamate | 257 mg | NCCN1C=C(C2=CC=C(C=C12)CN(C(OC(C)(C)C)=O)C1CC1)Cl | C19H26ClN3O2
